US06066639
2-Iodo-1-triphenylmethylimidazole-4-carboxylic acid (1.443 g, 3.0 mmol), 2-chloro-4,6-dimethoxy-1,3,5-triazine (553 mg, 3.15 mmol), 4-methylmorpholine (0.614 mL, 6.6 mmol), dimethyl L-glutamate hydrochloride (698 mg, 3.3 mmol), and tetrahydrofuran (20 mL) were then allowed to react in the manner described in Example 15 to yield dimethyl N-(2-iodo-1-triphenylmethylimidazol-4-ylcarbonyl)--L-glutamate (1.44 g, 75%, mp 86-88° C.): 1H N (CDCl3) δ 7.47 (s, 1H), 7.44 (d, 1H, J=8.6 Hz), 7.32-7.26 (m, 9H), 7.21-7.05 (m, 6H), 4.72 (m, 1H), 3.71 (s, 3H), 3.62 (s, 3H), 2.41 (m, 2H), 2.27 (m, 1H), 1,99 (m, 1H). HRMS calcd for C30H28IN3O5 637.1074, found 637.1054. Anal. Calcd for C30H28IN3O5 : C, 56.52; H, 4.43; N, 6.59. Found: C, 56.36; H, 4.45, N, 6.57.

reactant | 2-Iodo-1-triphenylmethylimidazole-4-carboxylic acid | 3.0 mmol, 1.443 g | IC=1N(C=C(N1)C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H17IN2O2
reactant | 2-chloro-4,6-dimethoxy-1,3,5-triazine | 3.15 mmol, 553 mg | ClC1=NC(=NC(=N1)OC)OC | C5H6ClN3O2
reactant | 4-methylmorpholine | 6.6 mmol, 0.614 mL | CN1CCOCC1 | C5H11NO
reactant | dimethyl L-glutamate hydrochloride | 3.3 mmol, 698 mg | Cl.N[C@@H](CCC(=O)OC)C(=O)OC
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | dimethyl N-(2-iodo-1-triphenylmethylimidazol-4-ylcarbonyl)--L-glutamate | 1.44 g, 75% | IC=1N(C=C(N1)C(=O)N[C@@H](CCC(=O)OC)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28IN3O5
